US06492399B1
3-Bromo-5-ethylthiopyridine
Under a nitrogen atmosphere, NaOH (1.25 g, 31.3 mmol) was added to anhydrous DMF (40 mL). Ethanethiol (2.60 mL, 2.20 g, 35.5 mmol) was then added by syringe and the mixture was stirred for 6 h at 25° C. while the NaOH dissolved. The solution was cooled to 0° C., and 3,5-dibromopyridine (5.92 g, 25.0 mmol) was added. After stirring for 15 min at 0° C. and 45 min at 25° C., the mixture was poured into water (250 mL) and extracted with ether (2×100 mL). Drying (Na2SO4) and evaporation of the ether, followed by vacuum distillation of the crude product gave 4.39 g (80.6% yield) of colorless oil, bp 91-95° C. at 0.30 mm Hg.

reactant | NaOH | 31.3 mmol, 1.25 g | [OH-].[Na+]
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | Ethanethiol | 35.5 mmol, 2.60 mL, 2.20 g | C(C)S | C2H6S
reactant | 3,5-dibromopyridine | 25.0 mmol, 5.92 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | water | 250 mL | O | H2O
product | 3-Bromo-5-ethylthiopyridine | 4.39 g, 80.6% yield | BrC=1C=NC=C(C1)SCC | C7H8BrNS
